US05959106
6. Preparation of N-(2-Fluorophenyl)-8-fluoro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine-2-sulfonamide
A mixture of 12.5 g (46.9 mmol) of 2-chlorosulfonyl-8-fluoro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine and 25 mL of 1,2-propanediol was placed in a round bottom flask and cooled to 5° C. under nitrogen. 2-Fluoroaniline (13.7 g, 123 mmol) was added with stirring and cooling over a 10-min period. There was an exotherm. The mixture was allowed to warm to ambient temperature with stirring overnight and was then diluted with 30 mL of water. The mixture was stirred for 30 min and the solids present were then collected by filtration, washed with 2×25 mL of water and 2×25 mL of 2-propanol. The resulting solid was recrystallized from about 175 mL of 2-propanol and dried under reduced pressure at 45° C. to obtain 13.2 g (82.5 percent of theory) of the title compound as a white solid of 99 percent purity. The structure of this compound was confirmed by its proton nuclear magnetic resonance spectrum (300 MegaHertz, D-6 acetone): 9.70(s, 1H), 8.17(d, 1H, J=1.9 Hertz), 7.58(m, 1H), 7.24(m, 1H), 7.16(m, 2H), 4.29(s, 3H) and its C-13 carbon nuclear magnetic resonance spectrum (75 MegaHertz, D-6 acetone): 165.6, 156.8(d, J=244.8 Hertz), 149.1(d, J=26.1), 147.8, 145.7(d, J=252.9), 130.2(d, J=21.8), 128.5(d, J=4.1), 125(m), 116.7(d, J=19.7), 57.6.

reactant | 2-chlorosulfonyl-8-fluoro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine | 46.9 mmol, 12.5 g | ClS(=O)(=O)C1=NN2C(=NC=C(C2=N1)F)OC | C6H4ClFN4O3S
reactant | 1,2-propanediol | 25 mL | C(C(C)O)O | C3H8O2
reactant | 2-Fluoroaniline | 123 mmol, 13.7 g | FC1=C(N)C=CC=C1 | C6H6FN
solvent | water | 30 mL | O | H2O
product | N-(2-Fluorophenyl)-8-fluoro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine-2-sulfonamide | FC1=C(C=CC=C1)NS(=O)(=O)C1=NN2C(=NC=C(C2=N1)F)OC | C12H9F2N5O3S
